Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
egg / nut - unspecified / banana / iodine / sesame seed / soy / 
dairy / latex / adhesive / Betadine / sunflower seeds and all 
seeds / gold metal
 
Attending: ___.
 
Chief Complaint:
Headaches, Right ICA Aneurysm 
 
Major Surgical or Invasive Procedure:
___: Pipeline Embolization Right ICA Aneurysm 
 
History of Present Illness:
___ is a ___ who was found to have right ICA aneurysm 
on workup for headaches. She had two sudden onset headaches, 
which was very severe and was about ___.  The first one 
happened while she was engaging in oral sex and the second one 
happened while she was in the bathroom at ___ and was 
straining to have a bowel movement.  These lasted about ___ 
minutes.  She has subsequently been involved in sexual 
activities without any headaches.  These two episodes occurred 
on ___ and ___.  No nausea, vomiting, no
blurry vision or diplopia.  She has a recent diagnosis of 
hypertension, history of bike accident at age ___. Patient 
imaging and cerebral angiogram are consistent with Right ICA 
aneurysm. 

 
Past Medical History:
- hypothyroidism
- high iron

 
Social History:
___
Family History:
She is adopted, ___ year old mother had two strokes.  She has 
some knowledge of her blood relatives.  Her mother had two 
strokes and her father died at ___ with
Alzheimer's.  No history of brain aneurysm.

 
Physical Exam:
ON DISCHARGE: 
============

Exam:

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  Right  ___       Left  ___

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Angio Groin Site: 
[x]Clean, Dry and Intact
[x]Soft, no hematoma  
[x]Palpable pulses

 
Pertinent Results:
Please refer to ___ for pertinent imaging and lab results. 
 
Brief Hospital Course:
___ is a ___ year old female who was found to have right 
ICA aneurysm on workup for headaches. She now presents for 
elective pipeline embolization of aneurysm. 

#Right ICA Aneurysm 
Patient presented to ___ area, was assessed by anesthesia and 
taken to the OR on ___ for pipeline embolization of right 
ICA aneurysm. Patient tolerated the procedure well. Please refer 
to formal op report in OMR for further intra operative details. 
Patient was transferred to the PACU post operatively for further 
care where she remained stable and was later transferred to the 
___. 

#Vaginal Teat
Nursing reported small vaginal/perineum tear when inserting 
foley catheter for case. Dressing was applied. Patient reported 
this may have been there prior to surgery. No further 
intervention needed. Small amount of bleeding resolved. 

 
Medications on Admission:
- ProAir HFA 90 mcg/actuation aerosol inhaler. 2 puffs  QID PRN  
allergic asthma
- amlodipine 5 mg tablet. 1 tablet(s) PO ___
- EpiPen ___ 0.3 mg/0.3 mL ninjection, ___. 1 IM as 
directed
- fluticasone propionate 50 mcg/actuation nasal 
spray,suspension. 1 to 2
  squirts bilateral once a day  
- ketoconazole 2 % topical cream. apply to affected area BID
- losartan 25 mg tablet. 1 tablet(s) PO ___ 
- mupirocin 2 % topical ointment. Apply to affected area BID PRN 
oral rash 
- omeprazole 20 mg capsule,delayed release. 1 (One) capsule(s) 
PO ___
- prednisone 50 mg tablet. as directed tablet(s) by mouth as 
directed one pill
  at 13 hours prior to procedure; 7 hours  prior to procedure, 1 
hour prior to
  procedure
- NP Thyroid 30 mg tablet. 0.5 (One half) tablet(s) by mouth as  
directed 0.5
  pill qd with the 90 mcg four days a week; full pill with 90 
three days ___ week 
- NP Thyroid 90 mg tablet. 1 tablet(s) PO ___ 
- BIOFLAVONOID ___ WITH BIOFLAVONOIDS] - Dosage uncertain 
- ___ - Dosage uncertain 
- diphenhydramine 25 mg capsule. 2 (Two) capsule(s) PO one hour 
before
  procedure may repeat if needed
- ___ - Dosage uncertain 
- MULTIVITAMIN [___] - ___ 
tablet. 1 tablet(s)
  by mouth once a day (Not Taking as Prescribed: Patient states 
she no longer
  takes multivitamins)
- OMEGA ___ OIL [FISH OIL] - Dosage uncertain - 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN fever or pain  
2.  Bisacodyl 10 mg PO/PR ___ constipation  
3.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheeze  
4.  amLODIPine 5 mg PO ___  
5.  Aspirin 325 mg PO ___ 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*31 
Tablet Refills:*3 
6.  Clopidogrel 75 mg PO ___ 
RX *clopidogrel [Plavix] 75 mg 1 tablet(s) by mouth once a day 
Disp #*31 Tablet Refills:*3 
7.  Fluticasone Propionate NASAL 1 SPRY NU ___  
8.  Losartan Potassium 25 mg PO ___  
9.  thyroid (pork) 105 mg oral 4X/WEEK (___)  
10.  thyroid (pork) 120 mg oral 3X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ICA Aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Embolization 

Activity
- ___ may gradually return to your normal activities, but we 
recommend ___ take it easy for the next ___ hours to avoid 
bleeding from your groin.

- Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.

- ___ make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.

- Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.

- ___ make take a shower.

Medications

- Resume your normal medications and begin new medications as 
directed.

- ___ may be instructed by your doctor to take one ___ a day 
and/or Plavix. If so, do not take any other products that have 
aspirin in them. If ___ are unsure of what products contain 
Aspirin, as your pharmacist or call our office.

- ___ may use Acetaminophen (Tylenol) for minor discomfort if 
___ are not otherwise restricted from taking this medication.

- If ___ take Metformin (Glucophage) ___ may start it again 
three (3) days after your procedure.

Care of the Puncture Site

- Keep the site clean with soap and water and dry it carefully.

- ___ may use a ___ if ___ wish.

What ___ ___ Experience:

- Mild tenderness and bruising at the puncture site (groin).

- Soreness in your arms from the intravenous lines.

- Mild to moderate headaches that last several days to a few 
weeks.

- Fatigue is very normal

- Constipation is common. Be sure to drink plenty of fluids and 
eat a ___ diet. If ___ are taking narcotics (prescription 
pain medications), try an ___ stool softener.

When to Call Your Doctor at ___ for:

- Severe pain, swelling, redness or drainage from the puncture 
site. 

- Fever greater than 101.5 degrees Fahrenheit

- Constipation

- Blood in your stool or urine

- Nausea and/or vomiting

- Extreme sleepiness and not being able to stay awake

- Severe headaches not relieved by pain relievers

- Seizures

- Any new problems with your vision or ability to speak

- Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___